US07253196B2
Methyl 2-bromo-2-(tetrahydro-2H-pyran-4-yl)acetate
To a dry 250 mL round-bottomed flask was added 2.20 g of methyl 2-(tetrahydro-2H-pyran-4-yl)acetate (0.014 mol) and 100 mL of dry THF. This solution was cooled to −78° C. and LDA (2.0 M in THF/heptane/ethyl benzene, 10.4 mL, 0.021 mol) was added. The resulting brown solution was stirred at −78° C. for 45 min. TMSCl (3.22 g, 3.5 mL, 0.028 mol) was then added at −78° C., and the reaction mixture was then warmed to room temperature. After being re-cooled to −78° C., N-bromosuccinimide (4.94 g, 0.028 mol) was added to the reaction mixture, and the resulting suspension was allowed to slowly warm to room temperature where it continued to stir for an additional 1.5 h. The suspension was then filtered thru a pad of SiO2 using diethyl ether as the eluant. Purification of the filtrate by column chromatography (SiO2 gel, 10:1 to 4:1 hexanes/ethyl acetate) delivered the desired α-bromo ester, which was used in subsequent steps without further purification.

reactant | methyl 2-(tetrahydro-2H-pyran-4-yl)acetate | 0.014 mol, 2.20 g | O1CCC(CC1)CC(=O)OC | C8H14O3
reactant | LDA | 0.021 mol, 2.0 M, 10.4 mL | [Li+].CC(C)[N-]C(C)C
reactant | TMSCl | 0.028 mol, 3.5 mL, 3.22 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | N-bromosuccinimide | 0.028 mol, 4.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 2-bromo-2-(tetrahydro-2H-pyran-4-yl)acetate | BrC(C(=O)OC)C1CCOCC1 | C8H13BrO3
